* File: NAND2D4.pex.netlist.pex
* Created: Sat Dec 13 11:09:42 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NAND2D4_net14 8 22 23 37 38 48 49 59 60 71 76 77 82 83 88 94 95 100
+ 101 106 112 118 119 124 125 130 136 142 143 148 149 154 160 166 205 206 207
+ 208 209 210 211 212 213 214 215 216 217 218 219 220 221 223 225 227 229 231
+ 233
r212 243 245 0.413569
r213 240 243 0.00212097
r214 235 238 0.52809
r215 233 243 0.320546
r216 233 238 1.84026
r217 173 240 1.5625
r218 170 240 0.520833
r219 165 166 0.793634
r220 165 220 0.793634
r221 161 166 0.793634
r222 159 160 0.793634
r223 159 219 0.793634
r224 155 161 0.812477
r225 155 160 0.793634
r226 153 154 0.793634
r227 153 218 0.793634
r228 149 155 0.812477
r229 149 154 0.793634
r230 147 148 0.793634
r231 147 217 0.793634
r232 143 149 0.812477
r233 143 148 0.793634
r234 141 142 0.793634
r235 141 216 0.793634
r236 137 143 0.812477
r237 137 142 0.793634
r238 135 136 0.793634
r239 135 215 0.793634
r240 131 137 0.812477
r241 131 136 0.793634
r242 129 130 0.793634
r243 129 214 0.793634
r244 125 131 0.812477
r245 125 130 0.793634
r246 123 124 0.793634
r247 123 213 0.793634
r248 119 125 0.812477
r249 119 124 0.793634
r250 117 118 0.793634
r251 117 212 0.793634
r252 113 119 0.812477
r253 113 118 0.793634
r254 111 112 0.793634
r255 111 211 0.793634
r256 107 113 0.812477
r257 107 112 0.793634
r258 105 106 0.793634
r259 105 210 0.793634
r260 101 107 0.812477
r261 101 106 0.793634
r262 99 100 0.793634
r263 99 209 0.793634
r264 95 101 0.812477
r265 95 100 0.793634
r266 93 94 0.793634
r267 93 208 0.793634
r268 89 95 0.812477
r269 89 94 0.793634
r270 87 88 0.793634
r271 87 207 0.793634
r272 83 89 0.812477
r273 83 173 0.375771
r274 83 88 0.793634
r275 81 82 0.793634
r276 81 206 0.793634
r277 77 173 0.436706
r278 77 170 0.0914037
r279 77 82 0.793634
r280 75 76 0.793634
r281 75 205 0.793634
r282 71 170 0.721073
r283 71 76 0.793634
r284 67 221 15.5816
r285 60 231 35.8101
r286 59 60 35.8101
r287 56 59 35.8101
r288 55 70 6.54082
r289 54 56 7.39434
r290 54 55 26.749
r291 49 229 35.8101
r292 48 49 35.8101
r293 45 70 0.652933
r294 45 48 35.8101
r295 44 69 6.54082
r296 43 70 6.54082
r297 43 44 26.749
r298 38 227 35.8101
r299 37 38 35.8101
r300 34 69 0.652933
r301 34 37 35.8101
r302 33 245 1.5625
r303 31 245 0.520833
r304 31 33 13.9095
r305 29 31 1.23045
r306 28 69 6.54082
r307 28 33 11.6091
r308 23 225 35.8101
r309 22 23 35.8101
r310 19 29 7.39434
r311 19 22 35.8101
r312 17 238 1.5625
r313 15 235 0.520833
r314 15 17 16.9689
r315 13 68 7.6338
r316 13 15 2.93769
r317 8 68 0.0725775
r318 8 223 26.7597
r319 7 67 5.56955
r320 6 68 7.6338
r321 6 7 32.5685
.ends

.subckt PM_NAND2D4_VSS 1 38 39 48 49 57 58 66 67 75 76 84 85 93 94 102 103 158
+ 159 160 161 162 163 165 166 167 169 171 173 175 177 179 181
r78 190 192 0.57564
r79 188 190 1.30185
r80 184 187 0.57564
r81 182 188 0.247405
r82 182 187 0.340934
r83 152 187 1.5625
r84 149 184 0.520833
r85 140 152 0.0664421
r86 140 149 0.509198
r87 140 161 1.3829
r88 136 149 0.376402
r89 136 160 1.3829
r90 132 136 0.8856
r91 132 159 1.3829
r92 128 132 0.8856
r93 128 158 1.3829
r94 115 166 1.83336
r95 113 192 1.5625
r96 113 190 0.520833
r97 113 115 12.1185
r98 111 113 2.97004
r99 111 165 0.421672
r100 111 165 11.1793
r101 103 181 24.7155
r102 102 103 24.7142
r103 99 127 3.03423
r104 99 102 24.7142
r105 98 126 5.52744
r106 97 127 3.89768
r107 97 98 21.7558
r108 94 179 16.477
r109 93 94 16.4761
r110 90 126 1.43649
r111 90 93 16.4761
r112 89 125 5.52744
r113 88 126 5.52744
r114 88 89 21.7558
r115 85 177 16.477
r116 84 85 16.4761
r117 81 125 1.43649
r118 81 84 16.4761
r119 80 124 5.52744
r120 79 125 5.52744
r121 79 80 21.7558
r122 76 175 16.477
r123 75 76 16.4761
r124 72 124 1.43649
r125 72 75 16.4761
r126 71 123 5.52744
r127 70 124 5.52744
r128 70 71 21.7558
r129 67 173 16.477
r130 66 67 16.4761
r131 63 123 1.43649
r132 63 66 16.4761
r133 62 122 5.52744
r134 61 123 5.52744
r135 61 62 21.7558
r136 58 171 16.477
r137 57 58 16.4761
r138 54 122 1.43649
r139 54 57 16.4761
r140 53 121 5.52744
r141 52 122 5.52744
r142 52 53 21.7558
r143 49 169 16.477
r144 48 49 16.4761
r145 45 121 1.43649
r146 45 48 16.4761
r147 43 120 5.52744
r148 42 121 5.52744
r149 39 167 16.477
r150 38 39 16.4761
r151 35 120 1.43649
r152 35 38 16.4761
r153 34 119 5.52744
r154 33 120 5.52744
r155 33 34 21.7558
r156 30 115 6.23882
r157 30 166 28.0215
r158 29 119 1.43649
r159 29 166 33.9391
r160 25 111 11.1793
r161 25 165 12.8747
r162 21 165 8.02223
r163 20 107 9.45053
r164 19 21 7.29435
r165 19 20 43.8037
r166 14 107 1.07853
r167 14 163 27.1948
r168 12 107 9.45053
r169 12 13 43.8037
r170 8 13 7.49778
r171 8 162 40.7922
r172 1 42 11.9657
r173 1 43 9.79012
.ends

.subckt PM_NAND2D4_OUT 1 5 6 16 17 27 28 38 39 46 47 53 55 60 61 62 69 71 76 77
+ 79 80 92 93 100 102 107 108 112 113 118 130 131 139 141 146 147 151 152 178
+ 180 182 184 186 188 190 192 194 195 198 199 202 203 206 207
r186 176 202 2.60416
r187 170 194 2.60416
r188 165 190 2.60416
r189 152 207 42.2211
r190 151 152 42.2207
r191 148 151 42.2207
r192 146 147 16.6793
r193 146 206 16.6793
r194 141 147 16.6798
r195 140 176 13.159
r196 139 141 8.46397
r197 139 140 44.3109
r198 137 177 8.95097
r199 136 148 8.19075
r200 131 203 42.2211
r201 130 131 42.2207
r202 127 177 0.822863
r203 127 130 42.2207
r204 121 173 8.95097
r205 120 177 8.95097
r206 120 121 40.5388
r207 119 172 9.53916
r208 118 176 13.159
r209 118 119 44.3997
r210 113 199 42.2211
r211 112 113 42.2207
r212 109 173 0.822863
r213 109 112 42.2207
r214 107 108 16.6793
r215 107 198 16.6793
r216 102 172 1.12241
r217 102 108 16.6798
r218 101 170 13.159
r219 100 172 9.53916
r220 100 101 44.3109
r221 99 171 8.95097
r222 98 173 8.95097
r223 98 99 40.5388
r224 93 195 42.2211
r225 92 93 42.2207
r226 89 171 0.822863
r227 89 92 42.2207
r228 83 167 8.95097
r229 82 171 8.95097
r230 82 83 40.5388
r231 81 166 13.3199
r232 80 170 13.159
r233 80 81 44.3997
r234 79 167 0.822863
r235 78 166 3.19811
r236 78 79 21.5383
r237 76 77 16.6793
r238 76 192 16.6793
r239 71 166 3.19811
r240 71 77 16.6798
r241 70 165 13.159
r242 69 166 13.3199
r243 69 70 44.3109
r244 63 162 9.53916
r245 62 165 13.159
r246 62 63 44.3997
r247 60 61 16.6793
r248 60 188 16.6793
r249 55 162 1.12241
r250 55 61 16.6798
r251 54 186 10.5632
r252 53 162 9.53916
r253 53 54 44.3109
r254 46 47 78.3745
r255 45 159 8.95097
r256 45 46 78.3745
r257 44 167 8.95097
r258 44 47 78.3761
r259 39 184 42.2211
r260 38 39 42.2207
r261 35 159 0.822863
r262 35 38 42.2207
r263 34 158 8.95097
r264 33 159 8.95097
r265 33 34 40.5388
r266 28 182 42.2211
r267 27 28 42.2207
r268 24 158 0.822863
r269 24 27 42.2207
r270 23 157 8.95097
r271 22 158 8.95097
r272 22 23 40.5388
r273 17 180 42.2211
r274 16 17 42.2207
r275 13 157 0.822863
r276 13 16 42.2207
r277 11 157 8.95097
r278 11 12 40.5388
r279 6 178 42.2211
r280 5 6 42.2207
r281 2 12 8.19075
r282 2 5 42.2207
r283 1 136 17.4317
r284 1 137 23.1071
.ends

.subckt PM_NAND2D4_VDD 1 4 11 14 21 22 25 32 33 36 43 44 47 54 55 58 65 66 69 76
+ 77 80 87 88 91 98 99 102 109 110 113 120 121 124 131 132 135 142 158 159 161
+ 163 165 167 169 171 173 175 177 179 181
r181 141 142 52.214
r182 141 181 52.214
r183 135 157 3.03423
r184 135 142 52.214
r185 134 156 5.52744
r186 133 157 3.89768
r187 133 134 21.7558
r188 131 132 34.8093
r189 131 179 34.8093
r190 124 156 1.43649
r191 124 132 34.8093
r192 123 155 5.52744
r193 122 156 5.52744
r194 122 123 21.7558
r195 120 121 34.8093
r196 120 177 34.8093
r197 113 155 1.43649
r198 113 121 34.8093
r199 112 154 5.52744
r200 111 155 5.52744
r201 111 112 21.7558
r202 109 110 34.8093
r203 109 175 34.8093
r204 102 154 1.43649
r205 102 110 34.8093
r206 101 153 5.52744
r207 100 154 5.52744
r208 100 101 21.7558
r209 98 99 34.8093
r210 98 173 34.8093
r211 91 153 1.43649
r212 91 99 34.8093
r213 90 152 5.52744
r214 89 153 5.52744
r215 89 90 21.7558
r216 87 88 34.8093
r217 87 171 34.8093
r218 80 152 1.43649
r219 80 88 34.8093
r220 78 152 5.52744
r221 78 79 21.7558
r222 76 77 34.8093
r223 76 169 34.8093
r224 69 77 34.8093
r225 68 150 5.52744
r226 67 68 21.7558
r227 65 66 34.8093
r228 65 167 34.8093
r229 58 150 1.43649
r230 58 66 34.8093
r231 57 149 5.52744
r232 56 150 5.52744
r233 56 57 21.7558
r234 54 55 34.8093
r235 54 165 34.8093
r236 47 149 1.43649
r237 47 55 34.8093
r238 46 148 5.52744
r239 45 149 5.52744
r240 45 46 21.7558
r241 43 44 34.8093
r242 43 163 34.8093
r243 36 148 1.43649
r244 36 44 34.8093
r245 35 147 5.52744
r246 34 148 5.52744
r247 34 35 21.7558
r248 32 33 34.8093
r249 32 161 34.8093
r250 25 147 1.43649
r251 25 33 34.8093
r252 24 146 5.52744
r253 23 147 5.52744
r254 23 24 21.7558
r255 21 22 34.8093
r256 21 159 34.8093
r257 14 146 1.43649
r258 14 22 34.8093
r259 13 145 3.89768
r260 12 146 5.52744
r261 12 13 21.7558
r262 10 11 52.214
r263 10 158 52.214
r264 4 145 3.03423
r265 4 11 52.214
r266 1 69 1.43649
r267 1 67 5.52744
r268 1 79 5.52744
.ends

.subckt PM_NAND2D4_IN1 1 11 14 17 18 20 22 25 26 28 29 30 33 34 36 42 44 50 52
+ 54 57 58 60 61 62 65 66 68 74 76 82 84 86 89 90 92 93 94 97 98 100 106 108 147
+ 148 149 150 151 152 153 154 155 156 157 158
r169 107 108 1.22053
r170 107 158 1.22053
r171 106 158 1.22056
r172 105 106 1.22053
r173 102 108 1.22056
r174 101 105 1.22053
r175 99 100 1.22053
r176 99 157 1.22053
r177 98 157 1.22056
r178 97 98 1.22053
r179 94 102 1.1808
r180 94 100 1.22056
r181 93 101 1.1808
r182 93 97 1.22053
r183 91 92 1.22053
r184 91 156 1.22053
r185 90 156 1.22056
r186 89 90 1.22053
r187 86 94 1.1808
r188 86 92 1.22056
r189 85 93 1.1808
r190 85 89 1.22053
r191 83 84 1.22053
r192 83 155 1.22053
r193 82 155 1.22056
r194 81 82 1.22053
r195 78 86 1.1808
r196 78 84 1.22056
r197 77 85 1.1808
r198 77 81 1.22053
r199 75 76 1.22053
r200 75 154 1.22053
r201 74 154 1.22056
r202 73 74 1.22053
r203 70 78 1.1808
r204 70 76 1.22056
r205 69 77 1.1808
r206 69 73 1.22053
r207 67 68 1.22053
r208 67 153 1.22053
r209 66 153 1.22056
r210 65 66 1.22053
r211 62 70 1.1808
r212 62 68 1.22056
r213 61 69 1.1808
r214 61 65 1.22053
r215 59 60 1.22053
r216 59 152 1.22053
r217 58 152 1.22056
r218 57 58 1.22053
r219 54 62 1.1808
r220 54 60 1.22056
r221 53 61 1.1808
r222 53 57 1.22053
r223 51 52 1.22053
r224 51 151 1.22053
r225 50 151 1.22056
r226 49 50 1.22053
r227 46 54 1.1808
r228 46 52 1.22056
r229 45 53 1.1808
r230 45 49 1.22053
r231 43 44 1.22053
r232 43 150 1.22053
r233 42 150 1.22056
r234 41 42 1.22053
r235 38 46 1.1808
r236 38 44 1.22056
r237 37 45 1.1808
r238 37 41 1.22053
r239 35 36 1.22053
r240 35 149 1.22053
r241 34 149 1.22056
r242 33 34 1.22053
r243 30 38 1.1808
r244 30 36 1.22056
r245 29 37 1.1808
r246 29 33 1.22053
r247 27 28 1.22053
r248 27 148 1.22053
r249 26 148 1.22056
r250 25 26 1.22053
r251 22 30 1.1808
r252 22 28 1.22056
r253 21 29 1.1808
r254 21 25 1.22053
r255 19 20 1.22053
r256 19 147 1.22053
r257 18 147 1.22056
r258 17 18 1.22053
r259 14 22 1.1808
r260 14 20 1.22056
r261 13 21 1.1808
r262 13 17 1.22053
r263 11 14 0.38376
r264 11 12 0.79704
r265 9 13 0.38376
r266 9 10 0.79704
r267 7 8 1.75644
r268 5 6 2.47475
r269 3 12 0.247405
r270 3 8 1.75644
r271 2 10 0.247405
r272 2 5 2.47475
r273 1 7 1.75644
r274 1 6 2.47478
.ends

.subckt PM_NAND2D4_IN2 1 3 6 7 9 11 14 15 17 18 19 22 23 25 31 33 39 41 43 46 47
+ 49 50 51 54 55 57 63 65 71 73 75 78 79 81 82 83 86 87 89 95 97 147 148 149 150
+ 151 152 153 154 155 156 157 158
r168 107 108 1.97291
r169 105 106 2.25828
r170 103 108 1.97294
r171 102 105 2.25828
r172 100 103 0.247405
r173 100 101 0.79704
r174 98 102 0.247405
r175 98 99 0.79704
r176 96 97 1.22053
r177 96 158 1.22053
r178 95 158 1.22056
r179 94 95 1.22053
r180 91 101 0.38376
r181 91 97 1.22056
r182 90 99 0.38376
r183 90 94 1.22053
r184 88 89 1.22053
r185 88 157 1.22053
r186 87 157 1.22056
r187 86 87 1.22053
r188 83 91 1.1808
r189 83 89 1.22056
r190 82 90 1.1808
r191 82 86 1.22053
r192 80 81 1.22053
r193 80 156 1.22053
r194 79 156 1.22056
r195 78 79 1.22053
r196 75 83 1.1808
r197 75 81 1.22056
r198 74 82 1.1808
r199 74 78 1.22053
r200 72 73 1.22053
r201 72 155 1.22053
r202 71 155 1.22056
r203 70 71 1.22053
r204 67 75 1.1808
r205 67 73 1.22056
r206 66 74 1.1808
r207 66 70 1.22053
r208 64 65 1.22053
r209 64 154 1.22053
r210 63 154 1.22056
r211 62 63 1.22053
r212 59 67 1.1808
r213 59 65 1.22056
r214 58 66 1.1808
r215 58 62 1.22053
r216 56 57 1.22053
r217 56 153 1.22053
r218 55 153 1.22056
r219 54 55 1.22053
r220 51 59 1.1808
r221 51 57 1.22056
r222 50 58 1.1808
r223 50 54 1.22053
r224 48 49 1.22053
r225 48 152 1.22053
r226 47 152 1.22056
r227 46 47 1.22053
r228 43 51 1.1808
r229 43 49 1.22056
r230 42 50 1.1808
r231 42 46 1.22053
r232 40 41 1.22053
r233 40 151 1.22053
r234 39 151 1.22056
r235 38 39 1.22053
r236 35 43 1.1808
r237 35 41 1.22056
r238 34 42 1.1808
r239 34 38 1.22053
r240 32 33 1.22053
r241 32 150 1.22053
r242 31 150 1.22056
r243 30 31 1.22053
r244 27 35 1.1808
r245 27 33 1.22056
r246 26 34 1.1808
r247 26 30 1.22053
r248 24 25 1.22053
r249 24 149 1.22053
r250 23 149 1.22056
r251 22 23 1.22053
r252 19 27 1.1808
r253 19 25 1.22056
r254 18 26 1.1808
r255 18 22 1.22053
r256 16 17 1.22053
r257 16 148 1.22053
r258 15 148 1.22056
r259 14 15 1.22053
r260 11 19 1.1808
r261 11 17 1.22056
r262 10 18 1.1808
r263 10 14 1.22053
r264 8 9 1.22053
r265 8 147 1.22053
r266 7 147 1.22056
r267 6 7 1.22053
r268 3 11 1.1808
r269 3 9 1.22056
r270 2 10 1.1808
r271 2 6 1.22053
r272 1 107 1.97291
r273 1 106 2.25828
.ends

